US07109200B2
1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride
A 4N hydrochloric acid solution in ethyl acetate (0.7 ml) and 10% palladium carbon (500 mg) were added to a solution of 4-benzyloxycarbonyl-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidiny]methyl}-2-piperazinone (1.3 g) in ethanol (50 ml), and the mixture was stirred at room temperature for 15 hours under a nitrogen atmosphere. After the catalyst was removed, the solvent was distilled off to obtain the colorless amorphous title compound (1.15 g).

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | 4-benzyloxycarbonyl-1-{[4-ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidiny]methyl}-2-piperazinone | 1.3 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=CC(=NC=C1)C)NC(=O)OCC)=O | C27H35N5O5
solvent | ethyl acetate | 0.7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium carbon | 500 mg | [C].[Pd]
product | 1-{[4-Ethoxycarbonylamino-1-(2-methyl-4-pyridyl)-4-piperidinyl]methyl}-2-piperazinone hydrochloride | 1.15 g | Cl.C(C)OC(=O)NC1(CCN(CC1)C1=CC(=NC=C1)C)CN1C(CNCC1)=O | InChI=1S/C19H29N5O3.ClH/c1-3-27-18(26)22-19(14-24-11-8-20-13-17(24)25)5-9-23(10-6-19)16-4-7-21-15(2)12-16;/h4,7,12,20H,3,5-6,8-11,13-14H2,1-2H3,(H,22,26);1H
